2101-01-24 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Got NS both continuous (starting ~6pm) and bolus
   Rapid respiratory viral screen and culture + influenza dfa sent
   Called out, but then, at 4am SBP in 200s; patient wheezing diffusely,
   feeling uncomfortable and dyspneic. Given metoprolol IV 5mg x2; lasix
   40 iv x1. EKG done = no signif changes. CXR done = significant
   progression of pulm edema (intern read). Put out urine well to the
   lasix (>300cc in first hour), BPs coming down gradually.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2101-1-24**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.6
C (96
   HR: 84 (71 - 101) bpm
   BP: 178/85(108){84/54(62) - 216/116(141)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 80.9 kg
   Height: 65 Inch
                  Total In:
                                                                  9,362 mL
                  PO:
                                                                    300 mL
                  TF:
   IVF:
                                                                  2,562 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                  1,178 mL
   Urine:
                                                                    190 mL
                                                                  1,178 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,112 mL
                                                                 -1,178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin, No(t) Diaphoretic
   Eyes / Conjunctiva: pupils small, equal
   Head, Ears, Nose, Throat: mucous membranes moist
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: none, Left: none, No(t) Cyanosis
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): self, [**Location (un) **], but thinks it's fall, Movement:
   Purposeful, No(t) Sedated, Tone: Not assessed, left eye drooping
   Labs / Radiology
   228 K/uL
   11.3 g/dL
   146 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   21 mg/dL
   108 mEq/L
   141 mEq/L
   34.9 %
   16.2 K/uL
        [image002.jpg]
                             [**2101-1-23**]  10:30 AM
                             [**2101-1-23**]  07:00 PM
                             [**2101-1-24**]  04:47 AM
   WBC
   16.2
   Hct
   34.9
   Plt
   228
   Cr
   0.8
   TropT
   0.14
   0.16
   Glucose
   146
   Other labs: PT / PTT / INR:13.9/31.4/1.2, CK / CKMB /
   Troponin-T:78/7/0.16, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   CXR [**1-24**]:
   Bilateral small pleural effusions, bilateral perihilar haziness,
   both suggestive of mild-to-moderate fluid overload.  Retrocardiac atele
   ctasis.
   Assessment and Plan
   [**Age over 90 52**] yo woman with dementia admitted with mental status change, fever,
   and hypotension.  Developed pulmonary edema and HTN overnight.
 ALTERED MENTAL STATUS
           -      likely delirium superimposed on dementia
   -          continues to have waxing and [**Doctor Last Name 42**] mental status; per
   nursing report, less oriented this morning than yesterday
   -          DDx includes infection or hypoperfusion in the setting of
   recent hypotension and AFib
   -          Treat possible infection and maintain SBP around 140
 HYPOTENSION (NOT SHOCK)
   -          resolved, ? secondary to infection
   # Hypertension:
   -          most likely due to agitation and fluid overload
   -          diurese with IV lasix
   -          hydralazine and diltiazem as needed to maintain SBP around
   140
   # Pulmonary Edema:
   -          in the setting of receiving 9L of fluid yesterday
   -          diurese with IV lasix
   -          obtain TTE to assess for vavular abnormality
   -          continue to follow cardiac enzymes
 ATRIAL FIBRILLATION (AFIB): s/p episode on presentation, now resolved
   -          preferentially use nodal blocking agents to control HTN
   -          monitor
 COUGH and FEVER
   -          suspect pulmonary or possible sinus source of infection
   -          continue levofloxacin (day 1 = [**1-23**])
   -          will f/u influenza results given fever to 104; will contact
   PCP [**Last Name (NamePattern4) **]: whether she had flu vaccine
   -          UA negative
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -          continue home meds, including namenda and donepezil
 DEPRESSION
   -          continue mirtazipine
   # Psoriasis:
   - continue outpatient lactic acid, triamcinolone, and clobetasol
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  SSI
   Lines: PIV
   18 Gauge - [**2101-1-23**] 08:19 AM
   Prophylaxis:
   DVT: heparin SubQ
   Stress ulcer: ranitidine
   VAP:  not ventilated
   Comments: bowel regimen
   Communication:  Comments: with son [**Name (NI) 297**] [**Name (NI) 274**] [**Telephone/Fax (1) 298**]
   Code status: Full
 confirmed with PCP
   [**Name Initial (PRE) 374**]: ICU until blood pressure better controlled

2101-01-24 10:06:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains lethargic but MS back to baseline per PCP
   24 Hour Events:
 EKG - At [**2101-1-23**] 09:05 AM
 EKG - At [**2101-1-24**] 04:16 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2101-1-24**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 84 (71 - 101) bpm
   BP: 178/85(108){84/54(62) - 216/116(141)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 80.9 kg
   Height: 65 Inch
                  Total In:
                                                                  9,362 mL
                                                                    100 mL
   PO:
                                                                    300 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,562 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                  1,918 mL
   Urine:
                                                                    190 mL
                                                                  1,918 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,112 mL
                                                                 -1,818 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): self, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   228 K/uL
   146 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   21 mg/dL
   108 mEq/L
   141 mEq/L
   34.9 %
   16.2 K/uL
        [image002.jpg]
                             [**2101-1-23**]  10:30 AM
                             [**2101-1-23**]  07:00 PM
                             [**2101-1-24**]  04:47 AM
   WBC
   16.2
   Hct
   34.9
   Plt
   228
   Cr
   0.8
   TropT
   0.14
   0.16
   Glucose
   146
   Other labs: PT / PTT / INR:13.9/31.4/1.2, CK / CKMB /
   Troponin-T:78/7/0.16, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM) - in setting of T 104. Now
   improved but not at baseline per son
 HYPOTENSION (NOT SHOCK) resolved. Likely related to fever
 ATRIAL FIBRILLATION (AFIB) - will control rate and hypertension with
   diltiazem
 COUGH
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT) - MS now at baseline
 DEPRESSION
   Pulmonary edema - in setting of 9l IVF - now diuresing. Will check echo
   for valvular abnormalties. R/O for MI
   Fever - etiol unclear. [**Name2 (NI) 59**] evidence PNA or UTI. No bands on diff. Will
   r/o for influenza
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2101-1-23**] 08:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill 35

2101-01-25 10:58:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Agitated, confused overnight.  BP elevated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2101-1-24**] 11:39 AM
   Furosemide (Lasix) - [**2101-1-24**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Integumentary (skin): Psoriasis
   Psychiatric / Sleep: Agitated, Delirious
   Flowsheet Data as of  [**2101-1-25**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 75 (56 - 90) bpm
   BP: 162/59(84){106/41(59) - 207/132(120)} mmHg
   RR: 18 (16 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 80.9 kg
   Height: 65 Inch
             Total In:
                                                                    150 mL
                                                                    330 mL
   PO:
                                                                    100 mL
                                                                    280 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  5,328 mL
                                                                    560 mL
   Urine:
                                                                  5,328 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,178 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, Psoriasis
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Confused
   Labs / Radiology
   10.8 g/dL
   215 K/uL
   112 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   16 mg/dL
   104 mEq/L
   144 mEq/L
   32.1 %
   11.5 K/uL
        [image002.jpg]
                             [**2101-1-23**]  10:30 AM
                             [**2101-1-23**]  07:00 PM
                             [**2101-1-24**]  04:47 AM
                             [**2101-1-24**]  11:35 AM
                             [**2101-1-24**]  07:22 PM
                             [**2101-1-25**]  04:55 AM
   WBC
   16.2
   11.5
   Hct
   34.9
   32.1
   Plt
   228
   215
   Cr
   0.8
   0.6
   TropT
   0.14
   0.16
   0.12
   0.18
   0.20
   Glucose
   146
   112
   Other labs: PT / PTT / INR:13.9/31.4/1.2, CK / CKMB /
   Troponin-T:110/8/0.20, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM) remains confused. Will decrease
   Haldol.  Family wants to make her DNR
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) resolved
 HYPERTENSION, BENIGN -
 ATRIAL FIBRILLATION (AFIB) now in sinus
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 very confused
   overnight
 DEPRESSION
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Psoriasis
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2101-1-23**] 08:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR
   Disposition :
   Total time spent:  35 min